US04851419
(b) Phenylmethyl 2-[2-(2-pyridyl)-phenyl sulphinyl]benzimidazole-1-carboxylate
Phenylmethyl 2-[2-(pyridyl)-phenyl thio]benzimidazole-1-carboxylate (0.41 mmole) in dry dichloromethane (10 ml) was treated at 0° with a solution of m-chloroperbenzoic acid (0.48 mmole) in dichloromethane (5 cm3). The mixture was stirred for 3 hours at between 0° and 10° and then poured into aqueous sodium hydrogen carbonate. The organic phase was separated, dried (MgSO4), filtered and evaporated to give a pale brown foam. The foam was taken up into dichloromethane and flash chromatographed (4/1 CH2Cl2 /60:80 petroleum ether) to give the title compound as a yellow gum.

reactant | Phenylmethyl 2-[2-(pyridyl)-phenyl thio]benzimidazole-1-carboxylate | 0.41 mmole | N1=C(C=CC=C1)C1=C(C=CC=C1)SC1=NC2=C(N1C(=O)OCC1=CC=CC=C1)C=CC=C2 | C26H19N3O2S
reactant | m-chloroperbenzoic acid | 0.48 mmole | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
product | Phenylmethyl 2-[2-(2-pyridyl)-phenyl sulphinyl]benzimidazole-1-carboxylate | N1=C(C=CC=C1)C1=C(C=CC=C1)S(=O)C1=NC2=C(N1C(=O)OCC1=CC=CC=C1)C=CC=C2 | C26H19N3O3S
